US08541522B2
(2-(Benzyloxy)-3-tert-butylphenyl)(3-(pyridin-2-yl)phenyl)methanol (3):
A solution of 2-(3-bromophenyl)pyridine (2.4 g, 10.25 mmol) in anhydrous tetrahydrofuran (25 mL) was stirred at −78° C. and 2.5M n-butyllithium in hexanes (4.1 mL, 10.25 mmol) was added at such a rate that temperature did not exceed −70° C. Stirring was continued on the cold bath for 30 min and a solution of 2-(benzyloxy)-3-tert-butylbenzaldehyde (2.75 g, 10.25 mmol) in tetrahydrofuran (12 mL) was added at such a rate that temperature did not exceed −65° C. Stirring was continued on the cold bath for 20 min and 2 hr at room temperature. The reaction mixture was poured on saturated ammonium chloride (250 mL) and extracted with ethyl acetate (350 mL). The organic extract was washed with water (2×100 mL) and dried over sodium sulfate. The solvent was removed on a rotary evaporator and the crude product was used as such in the next step.

reactant | 2-(3-bromophenyl)pyridine | 10.25 mmol, 2.4 g | BrC=1C=C(C=CC1)C1=NC=CC=C1 | C11H8BrN
reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | 2-(benzyloxy)-3-tert-butylbenzaldehyde | 10.25 mmol, 2.75 g | C(C1=CC=CC=C1)OC1=C(C=O)C=CC=C1C(C)(C)C | C18H20O2
reactant | ammonium chloride | 250 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | (2-(Benzyloxy)-3-tert-butylphenyl)(3-(pyridin-2-yl)phenyl)methanol | C(C1=CC=CC=C1)OC1=C(C=CC=C1C(C)(C)C)C(O)C1=CC(=CC=C1)C1=NC=CC=C1 | C29H29NO2
